US09255097B2
Preparation 15A: (2,4,5-trichloro-6-oxo-6H-pyrimidin-1-yl)-acetic acid methyl ester
To a solution of 2,5,6-trichloro-3H-pyrimidin-4-one (20.0 g, 0.1 mol) in DMF (150 mL) was added NaH (60% in mineral oil, 6.0 g, 0.12 mol) in portions at 0° C. and the mixture was stirred for 30 min. Bromoacetic acid methyl ester (18.3 g, 0.12 mol) was then added, and the reaction mixture was stirred at RT overnight. The solution was diluted with water (800 mL) and extracted with EA (200 mL, 3×). The combined organics were washed with water (800 mL, 3×), washed with brine (500 mL), dried (Na2SO4) and concentrated. The residue was purified by silica chromatography (1:50, EA:PE) to give 6.0 g of the title product (22%). 1H NMR (400 MHz, CDCl3): δ 3.80 (s, 3H), 5.04 (s, 2H). [M+H] Calc'd for C7H5Cl3N2O3, 271. Found, 271.

reactant | 2,5,6-trichloro-3H-pyrimidin-4-one | 0.1 mol, 20.0 g | ClC1=NC(=C(C(N1)=O)Cl)Cl | C4HCl3N2O
reactant | NaH | 0.12 mol, 6.0 g | [H-].[Na+]
reactant | Bromoacetic acid methyl ester | 0.12 mol, 18.3 g | COC(CBr)=O | C3H5BrO2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | 800 mL | O | H2O
product | (2,4,5-trichloro-6-oxo-6H-pyrimidin-1-yl)-acetic acid methyl ester | 6.0 g, 22% | COC(CN1C(=NC(=C(C1=O)Cl)Cl)Cl)=O | C7H5Cl3N2O3
